US07268159B2
Synthesis of 1-{4-[(phenylsulfonyl)amino]benzyl}-3-thien-2-yl-1H-indole-2-carboxylic acid
The title compound was prepared from 1-(4-amino-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester and benzenesulfonyl chloride followed the procedure of Example 3 Step 2 as a light brown solid: 1H NMR (DMSO-d6) δ 5.67 (s, 2H), 6.95-7.05 (m, 4H), 7.14-7.23 (m, 3H), 7.30-7.35 (m, 1H), 7.49-7.75 (m, 8H), 10.26 (br s, 1H), 13.24 (br s, 1H); MS (ESI) m/z 489 (MH+); HRMS calcd for C26H21N2O4S2: 489.0940; found (ESI+): 489.0935.

reactant | 1-(4-amino-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1C=1SC=CC1)CC1=CC=C(C=C1)N | C22H20N2O2S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 1-{4-[(phenylsulfonyl)amino]benzyl}-3-thien-2-yl-1H-indole-2-carboxylic acid | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C(CN2C(=C(C3=CC=CC=C23)C=2SC=CC2)C(=O)O)C=C1 | C26H20N2O4S2
